US06906063B2
B. Synthesis of (4-aminophenyl)-N-[(5-chloro(2-thienyl))sulfonyl]carboxamide
A 74 mg portion (0.21 mmol) of [4-(1,3-dioxobenzo[c]azolidin-2-yl)phenyl]-N-[(5-chloro(2-thienyl))sulfonyl]-carboxamide, 192 mg (0.84 mmol) of tin dichloride dihydrate were combined and dissolved in 1.4 mL of EtOAc. The mixture was refluxed for 4 h, filtered through celite, and concentrated in vacuo to afford a solid which was purified on silica gel eluting with 10% MeOH/CH2Cl2 to give a quantitative yield of the titled compound. ES-MS (M+H)+=317 (Cl).

reactant | [4-(1,3-dioxobenzo[c]azolidin-2-yl)phenyl]-N-[(5-chloro(2-thienyl))sulfonyl]-carboxamide | 0.21 mmol | O=C1N(C(C2=C1C=CC=C2)=O)C2=CC=C(C=C2)C(=O)NS(=O)(=O)C=2SC(=CC2)Cl | C19H11ClN2O5S2
reactant | tin dichloride dihydrate | 0.84 mmol, 192 mg | O.O.[Sn](Cl)Cl
solvent | EtOAc | 1.4 mL | CCOC(=O)C | C4H8O2
product | (4-aminophenyl)-N-[(5-chloro(2-thienyl))sulfonyl]carboxamide | quantitative yield | NC1=CC=C(C=C1)C(=O)NS(=O)(=O)C=1SC(=CC1)Cl | C11H9ClN2O3S2
